US08198269B2
Synthesis of (±)-N-[7-((4aR*,8aS*)-2-amino-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-8a-yl)-2,2-difluorobenzo[1,3]dioxol-5-yl]-5-cyanopyridine-2-carboxamide
5-Cyanopyridine-2-carboxylic acid (4.0 mg), diisopropylethylamine (11.5 μl) and PyBOP (17.6 mg) were added to a solution of tert-butyl (±)-[(4aR*,8aS*)-8a-(6-amino-2,2-difluorobenzo[1,3]dioxol-4-yl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]carbamate (10 mg) in dichloromethane (2.0 ml) in an ice bath. The mixture was heated to room temperature and stirred for four hours. The solvent was evaporated under reduced pressure and the residue was purified by NH-pTLC to obtain an intermediate. The resulting intermediate was dissolved in dichloromethane (3.0 ml) and TFA (1.0 ml) was added. After stirring at room temperature for four hours, the reaction solution was diluted with water and neutralized with a sodium bicarbonate solution. The aqueous layer was extracted with dichloromethane, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by NH-pTLC to obtain the title compound.

reactant | 5-Cyanopyridine-2-carboxylic acid | 4.0 mg | C(#N)C=1C=CC(=NC1)C(=O)O | C7H4N2O2
reactant | diisopropylethylamine | 11.5 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | PyBOP | 17.6 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | tert-butyl (±)-[(4aR*,8aS*)-8a-(6-amino-2,2-difluorobenzo[1,3]dioxol-4-yl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]carbamate | 10 mg | NC=1C=C(C2=C(OC(O2)(F)F)C1)[C@@]12COCC[C@H]2CSC(=N1)NC(OC(C)(C)C)=O | C19H23F2N3O5S
reactant | TFA | 1.0 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 2.0 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3.0 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (±)-N-[7-((4aR*,8aS*)-2-amino-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-8a-yl)-2,2-difluorobenzo[1,3]dioxol-5-yl]-5-cyanopyridine-2-carboxamide | NC1=N[C@]2(COCC[C@H]2CS1)C1=CC(=CC2=C1OC(O2)(F)F)NC(=O)C2=NC=C(C=C2)C#N | C21H17F2N5O4S
